US05104867
11-(5) (2S, 4S)-2-Ethylcarbamoyl-1-ethyl-4-(4-methoxybenzylthio)pyrrolidine
301 μl of ethyl iodide and 314 mg of sodium bicarbonate were added, whilst ice-cooling, to a solution of 1.00 g of (2S, 4S)-2-ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine dissolved in 8 ml of dry dimethylformamide, and the mixture was stirred at room temperature for 5 hours. At the end of this time, the reaction mixture was poured into an aqueous solution of sodium chloride and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was subjected to column chromatography through silica gel (eluted with ethyl acetate) to afford 982 mg of the title compound as colorless crystals, melting at 60°-61° C.

reactant | ethyl iodide | 301 μl | C(C)I | C2H5I
reactant | sodium bicarbonate | 314 mg | C([O-])(O)=O.[Na+]
reactant | (2S, 4S)-2-ethylcarbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 1.00 g | C(C)NC(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C15H22N2O2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | (2S, 4S)-2-Ethylcarbamoyl-1-ethyl-4-(4-methoxybenzylthio)pyrrolidine | 982 mg | C(C)NC(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)CC | C17H26N2O2S
